US05998415
Step 2: 1-Benzylpiperazin-2-thione
To a solution of 1-benzyl-4-(tert-butyloxycarbonyl)piperazin-2-thione (925 mg, 3.02 mmol) in CH2Cl2 (25 mL) was added trifluoroacetic acid (2.5 mL). The mixture was stirred at room temperature, under nitrogen, for 2 h. The solvent was evaporated and the residue azeotroped with toluene (2×10 mL). The residue was partitioned between CH2Cl2 (2×50 mL) and Na2CO3 solution (10% (w/v), 40 mL). The combined organic layers were dried Na2SO4) and evaporated. The residue was chromatographed on silica, eluting with CH2Cl2 :MeOH (95:5) to afford the title compound (539 mg, 87%) as a pale orange solid. mp. 70-73° C. 1H NMR (250 MHz, CDCl3) δ3.11-3.16 (2H, m), 3.29-3.33 (2H, m), 4.10 (2H, s), 5.31 (2H, s), 7.30-7.37 (5H, m). MS (ES+) (207, M+1).

reactant | 1-benzyl-4-(tert-butyloxycarbonyl)piperazin-2-thione | 3.02 mmol, 925 mg | C(C1=CC=CC=C1)N1C(CN(CC1)C(=O)OC(C)(C)C)=S | C16H22N2O2S
reactant | trifluoroacetic acid | 2.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 1-Benzylpiperazin-2-thione | 539 mg, 87% | C(C1=CC=CC=C1)N1C(CNCC1)=S | C11H14N2S
